US09284323B2
(2S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-(pyridin-2-yl)but-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid was prepared by the method in Example 8 from ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate and 2-(pyridin-2-yl)but-3-yn-2-ol. 1H-NMR: 400 MHz, (CD3OD) δ: 8.61 (d, J=6 Hz, 1H), 8.22 (t, J=8 Hz, 1H), 8.05 (d, J=8 Hz, 1H), 7.78 (d, J=8 Hz, 1H), 7.66 (m, 2H), 7.57 (m, 3H), 7.47 (d, J=8 Hz, 1H), 7.35 (s, 1H), 7.30 (d, J=8 Hz, 1H), 5.16 (s, 1H), 2.61 (s, 3H), 1.87 (s, 3H), 0.98 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C32H30ClNO4: 528.2. found: 528.1.

reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | 2-(pyridin-2-yl)but-3-yn-2-ol | N1=C(C=CC=C1)C(C)(C#C)O | C9H9NO
product | (2S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-(pyridin-2-yl)but-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(C1=NC=CC=C1)O)C1=CC=C(C=C1)Cl | C32H30ClNO4
